US05399543
A stirred mixture of 2.5 grams (0.062 mole) of sodium hydride (60% in mineral oil) in 50 mL of N,N-dimethylformamide was cooled to 0° C., and a solution of 11.2 grams (0.062 mole) of ethyl 3-amino-4,4,4-trifluorocrotonate in 50 mL of N,N-dimethylformamide was added dropwise. Upon completion of addition, the reaction mixture was stirred at 0° C. during a 30 minute period. After this time the reaction mixture was cooled in a dry ice-acetone bath, and a solution of 10.4 grams of 2-fluoro-4-methoxyphenyl isocyanate in 50 mL of N,N-dimethylformamide was added dropwise. Upon completion of addition, the reaction mixture was maintained at the dry ice-acetone bath temperature for one hour. After this time the reaction mixture was allowed to warm to ambient temperature, where it was stirred for about 18 hours. The reaction mixture was then poured into an aqueous 0.25N hydrochloric acid solution. The mixture was extracted with diethyl ether, and the extract was washed with water. The diethyl ether extract was in turn extracted with aqueous 1M sodium bicarbonate, and this extract was washed with diethyl ether. The sodium bicarbonate extract was then made acidic with concentrated hydrochloric acid, and it was in turn extracted with diethyl ether. The diethyl ether extract was washed with water and dried with magnesium sulfate. The mixture was filtered, and the filtrate was concentrated under reduced pressure, yielding 5.5 grams of 3-(2-fluoro-4-methoxyphenyl)-6-trifluoromethyluracil. The NMR spectrum was consistent with the proposed structure.

reactant | sodium hydride | 0.062 mole, 2.5 grams | [H-].[Na+]
reactant | ethyl 3-amino-4,4,4-trifluorocrotonate | 0.062 mole, 11.2 grams | N\C(=C/C(=O)OCC)\C(F)(F)F | C6H8F3NO2
reactant | 2-fluoro-4-methoxyphenyl isocyanate | 10.4 grams | FC1=C(C=CC(=C1)OC)N=C=O | C8H6FNO2
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | hydrochloric acid | 0.25N | Cl | ClH
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 3-(2-fluoro-4-methoxyphenyl)-6-trifluoromethyluracil | 5.5 grams | FC1=C(C=CC(=C1)OC)N1C(NC(=CC1=O)C(F)(F)F)=O | C12H8F4N2O3
